US08207164B2
a) Ethyl 3-(5-bromo-2-fluorophenyl)-2,2-difluoro-3-hydroxypropanoate
To an ice cooled solution of 5-bromo-2-fluorobenzaldehyde (10.0 g, 49.2 mmol) in dry DMF (14 mL), Indium powder (8.48 g, 73.7 mmol) was added and stirred for 15 min. ethylbromodifluoroacetate (9.48 ml [14.98 g], 73.7 mmol) in dry DMF (10 mL) was added to the resultant reaction mixture and temperature of the reaction mixture was allowed to warm to rt (30° C.). Stirring continued for 24 h. TLC analysis of the reaction mixture indicated the product formation. Reaction mixture was treated with aqueous saturated NH4Cl solution and the crude product was extracted with ethyl acetate (500 mL) by washing with water, brine and the organic layer was dried over anhydrous Na2SO4. The organic layer was concentrated and the crude product was purified by column chromatography on silica gel using 4% Ethyl acetate in Hexane to obtain title compound as a colorless thick liquid. Yield=12.0 g (75%).

reactant | 5-bromo-2-fluorobenzaldehyde | 49.2 mmol, 10.0 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | Indium | 73.7 mmol, 8.48 g | [In] | In
reactant | ethylbromodifluoroacetate | 73.7 mmol, 9.48 ml, 14.98 g | C(C)OC(C(F)(F)Br)=O | C4H5BrF2O2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 14 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Ethyl 3-(5-bromo-2-fluorophenyl)-2,2-difluoro-3-hydroxypropanoate | BrC=1C=CC(=C(C1)C(C(C(=O)OCC)(F)F)O)F | C11H10BrF3O3
